* 51 stage Ring-Osc. BSIM3, transient noise
* will need 90 sec on a i7 860 with 4 threads
* for better noise analysis simulation time may be made larger than 200n

* closes the loop between inverters xinv1 and xinv5
vin in out dc 0.5 pulse 0.5 0 0.1n 5n 1 1 1

vdd dd 0 dc 0 pulse 0 2.2 0 1n 1 1 1

vss ss 0 dc 0
ve  sub  0 dc 0

vpe well 0 2.2

* noisy inverters
xiinv2 dd ss sub well out25 out50 inv253
xiinv1 dd ss sub well in out25 inv253

*three very noisy inverters
xiinv51 dd ss sub well out50 out51 inv1_2
xiinv52 dd ss sub well out51 out52 inv1_2
xiinv53 dd ss sub well out52 out inv1_2

*output amplifier
xiinv11 dd ss sub well out25 bufout inv2
cout  bufout ss 0.2pF

.option itl1=500 gmin=1e-15 itl4=10  noacct

* .dc vdd 0 2 0.01
.tran 8p 200n

.save in bufout v(t1)

.include modelcard.nmos
.include modelcard.pmos

.include noilib-demo.h

.control
unset ngdebug
* first run
save bufout  $ needed for restricting memory usage
rusage
run
rusage
plot bufout xlimit 90n 95n
linearize
fft bufout
echo start noise in plot $curplot
echo

* next run
* reset
save bufout
* original noise parameters 0.05 8p 1.0 0.001
alter @v.xiinv51.vn1[trnoise] = [ 0 0 0 0 ] $ no noise
alter @v.xiinv52.vn1[trnoise] = [ 0 0 0 0 ] $ no noise
alter @v.xiinv53.vn1[trnoise] = [ 0 0 0 0 ] $ no noise

run
rusage
plot bufout xlimit 90n 95n
linearize
fft bufout
echo no noise in plot $curplot
echo

* next run
* reset
save bufout
alter @v.xiinv51.vn1[trnoise] = [ 0.1 8p 1.5 0.002 ] $ more noise
alter @v.xiinv52.vn1[trnoise] = [ 0.1 8p 1.5 0.002 ] $ more noise
alter @v.xiinv53.vn1[trnoise] = [ 0.1 8p 1.5 0.002 ] $ more noise

run
rusage
plot bufout xlimit 90n 95n
linearize
fft bufout
echo more noise in plot $curplot
echo

set color0=white
set color1=black
plot mag(sp6.bufout) mag(sp2.bufout) mag(sp4.bufout) xlimit 0 2G ylimit 1e-7 1 ylog
.endc


.end
